* generated DPT SIC1200_23R V=879.8000000000001 I=25 Rgon=4.7 Rgoff=4.7 Lloop=1e-8
.include ../models/sic-behavioral.lib
VBUS bus 0 DC 879.8000000000001
CDC bus 0 100u ic=879.8000000000001
LLP bus kd 1e-8
MFW kd gfw swk SIC1200_23R
LFWK swk sw 1.5n
RGFW gfw fwref 4.7
VGFW fwref swk -4
RSN sw nsn 10
CSN nsn 0 470p
* no clamp
LLD kd sw 0.00006 ic=0
VSNS sw d1 0
LD d1 d 2n
M1 d g ks SIC1200_23R
LKS ks s 1.5n
LSP s 0 2n
VDRV drv ks PWL(0 -4 1e-7 -4 1.05e-7 18 0.0000018049329393043872 18 0.0000018099329393043872 -4 0.0000033049329393043873 -4 0.0000033099329393043872 18 0.000004104932939304388 18 0.000004109932939304388 -4)
RGN drv gon 4.7
DGN gon g DIDEAL
DGF g goff DIDEAL
RGF goff drv 4.7
.model DIDEAL D(Is=1e-3 N=0.1)
.tran 0.25n 0.000004704932939304388 uic
.option method=gear reltol=1e-3 abstol=1u vntol=1m
.control
set filetype=ascii
run
wrdata dpt-llc1200-final-vhi.out v(d,ks) v(g,ks) i(VSNS) v(gfw,swk)
quit
.endc
.end